US06511978B1
8-1) Preparation of 1-(1-benzylpiperidin-4-yl)-5-hydroxymethyl-1H-imidazole
3.0 g(11.4 mmol) of 4-amino-1-benzylpiperidine hydrochloride, 1.00 g(5.7 mmol) of dihydroxyacetone dimer and 1.8 g(18.2 mmol) of potassium thiocyanide were added to 10 ml of isopropyl alcohol, 2 ml of acetic acid was added thereto, and the resulting mixture was stirred for 48 hours at room temperature. The reaction mixture was filtered and the resulting solid was washed twice with 5 ml of isopropyl alcohol and twice with 5 ml of water. The filtered solid was added to 20 ml of 10% aqueous nitric acid solution and cooled to 0° C. To the reaction solution was added 10 mg of sodium nitrite and the mixture was reacted for 1 hour at room temperature. The aqueous solution was washed with 10 ml of ethylacetate, basified and recrystallized to give 1.2 g(Yield 38%) of the title compound.

reactant | 4-amino-1-benzylpiperidine hydrochloride | 11.4 mmol, 3.0 g | Cl.NC1CCN(CC1)CC1=CC=CC=C1
reactant | dihydroxyacetone dimer | 5.7 mmol, 1.00 g | C1C(OCC(O1)(CO)O)(CO)O | C6H12O6
reactant | potassium thiocyanide | 18.2 mmol, 1.8 g | S(C#N)C#N.[K]
reactant | isopropyl alcohol | 10 ml | C(C)(C)O | C3H8O
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 1-(1-benzylpiperidin-4-yl)-5-hydroxymethyl-1H-imidazole | 1.2 g, Yield 38% | C(C1=CC=CC=C1)N1CCC(CC1)N1C=NC=C1CO | C16H21N3O
